US05519138
2-n-Butyl-3-[4-[(α-carboxy)benzyloxy]benzyl]-5-methyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)imidazo[4,5-b]pyridine
Prepared analogously to Example 1b from 2-n-butyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-5-methyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-imidazo[4,5-b]pyridine and 2N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-5-methyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC(=C(C2)N2C(N(CCC2)CC2=CC=CC=C2)=O)C)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC | C39H43N5O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-3-[4-[(α-carboxy)benzyloxy]benzyl]-5-methyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC(=C(C2)N2C(N(CCC2)CC2=CC=CC=C2)=O)C)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O | C37H39N5O4
